### PR TITLE
feat: add difference on `DHashMap`/`HashMap`/`HashSet`

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR adds support for difference operation for `DHashMap`/`HashMap`/`HashSet` and proves several lemmas about it.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase bef8574b93cacb87c7e9804870341441346a64b5 --onto 8b575dcbf2a3b907044df2233a61b61003eeeb45`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-17 13:16:47)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 4296f8deeece4fdf6dbe7d5d6b5e23bd6a250d13 --onto 5a4226f2bdcc6299df76285b1d30f238546c09fe`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-18 13:51:02)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 51b67385cc0cd2613764ee4607957fef1f06128b --onto 5306a3469d20caa5f9d80384a5c1effdb14e9c67`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-21 19:17:33)
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-11-27` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-27 13:12:29)

File: src/Std/Data/Internal/List/Associative.lean [hunk 1]
```diff
@@ -5203,6 +5203,333 @@ theorem getEntry?_filter [BEq α] [EquivBEq α]
...
+    (dl₁ : DistinctKeys l₁) :
+    containsKey k l₂ → getKey? k (List.filter (fun p => containsKey p.fst l₂) l₁) =
+      getKey? k l₁ := by
+  intro h
+  rw [getKey?_filter_containsKey, h]
+  · simp only [↓reduceIte]
+  · exact dl₁
+
+/-- Internal implementation detail of the hash map -/
+def eraseList [BEq α] (l toErase : List ((a : α) × β a)) : List ((a : α) × β a) :=
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]: Hmm, I wonder if it would be better to have `toErase : List a`, and rewrite `eraseManyEntries m m₂.1 = eraseListₘ m ((toListModel m₂.1.buckets).map (·.1))`. Then the lemmas you are proving here will be useful when someone verifies `eraseMany` at some point in the future.

File: src/Std/Data/Internal/List/Associative.lean [hunk 2]
```diff
@@ -5242,6 +5242,68 @@ theorem getValueCast?_filter_containsKey [BEq α] [LawfulBEq α]
     case h_2 => rfl
     exact dl₁
 
+theorem getValueCast?_diff [BEq α] [LawfulBEq α]
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]: If you want to call if `diff` in your theorem names, consider adding a function `diff` that expands to `(List.filter (fun p => !containsKey p.fst l₂) l₁)`.

File: src/Std/Data/Internal/List/Associative.lean [hunk 3]
```diff
@@ -5438,6 +5577,39 @@ theorem containsKey_filter_containsKey_iff [BEq α] [EquivBEq α] {l₁ l₂ : L
...
+  cases x
+  case none =>
+    simp
+  case some kv =>
+    simp only [Option.isSome_filter, Option.any_some, Option.isSome_some, Bool.true_and]
+    rw [containsKey_congr]
+    apply List.beq_of_getEntry?_eq_some heq
+  . exact hl₁
+
+theorem containsKey_diff_eq_false_iff [BEq α] [EquivBEq α] {l₁ l₂ : List ((a : α) × β a)} {hl₁ : DistinctKeys l₁} {k : α} :
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]: What's up with the name?

File: src/Std/Data/Internal/List/Associative.lean [hunk 4]
```diff
@@ -5233,6 +5233,122 @@ theorem getValueCast?_filter_containsKey [BEq α] [LawfulBEq α]
     case h_2 => rfl
     exact dl₁
 
+theorem getValueCast?_filter_contains_eq_false [BEq α] [LawfulBEq α]
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]: If there is no `false` in the theorem statement, then there should be no `false` in the name. This lemma should be called `getValueCast?_filter_not_contains`. The same applies to many other lemmas in this file.

File: src/Std/Data/Internal/List/Associative.lean [hunk 5]
```diff
@@ -5504,6 +5764,601 @@ theorem congr_filter_containsKey_of_perm {l₁ l₂ l₃ l₄ : List ((a : α) 
...
+        simp [h]
+      case h_2 _ heq =>
+        simp only [heq]
+    · exact dl₁
+
+theorem getKey?_filter_contains_map_fst_eq_false [BEq α] [EquivBEq α]
+    {l₁ l₂ : List ((a : α) × β a)} {k : α}
+    (dl₁ : DistinctKeys l₁) :
+    getKey? k (List.filter (fun p => !List.contains (l₂.map Sigma.fst) p.fst) l₁) =
+if containsKey k l₂ = true then none else getKey? k l₁ := by
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean:5892]:
```suggestion
    if containsKey k l₂ = true then none else getKey? k l₁ := by
```
